US06060469
1-Benzyloxy-2-bromo-4-nitrobenzene
2-Bromo-4-nitrophenol (10 g), potassium carbonate (12.7 g) and benzyl bromide were dissolved in dimethylformamide and the mixture was stirred overnight. The mixture was diluted with water (1 L) and extracted with ethyl acetate (3×50 ml). The organic laver was washed with water, brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (95:5) to give the title compound as a pale vellow solid, (11.8 g, 77%). 1H NMR (250 MHz, CDCl3) δ 8.49 (1H, d, J=2.7 Hz), 8.17 (1H, dd, J=9.1, 2.7 Hz), 7.45 (5H, m), 7.00 (1H, d, J=9.1 Hz), and 5.28 (2H, s).

reactant | 2-Bromo-4-nitrophenol | 10 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | potassium carbonate | 12.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | 1-Benzyloxy-2-bromo-4-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C13H10BrNO3
